### PR TITLE
refactor: redefine `ConcreteGame`

### PR DESCRIPTION
**Pull request by vihdzp**
Taking inspiration from the quite successful design of [`LGame.corec`](https://vihdzp.github.io/combinatorial-games/CombinatorialGames/Game/Loopy/Basic.html#LGame.corec), we redefine `ConcreteGame`, in terms of sets of moves rather than relations, so that the function `toLGame` is a direct call to the corecursor. 

Moreover, we turn `ConcreteGame` into a structure, rather than having it as a typeclass. This avoids the need for type aliases all over the place.

I've made the poset and domineering files build, but we realistically should refactor both of them at a later point.

This design was in large part @alreadydone's idea.

- [x] depends on: #173

### CODE REVIEW

File: CombinatorialGames/Game/Specific/Domineering.lean [hunk 1]
```diff
@@ -143,14 +145,14 @@ theorem subrelation_relRight :
 instance : IsWellFounded _ relLeft := subrelation_relLeft.isWellFounded
 instance : IsWellFounded _ relRight := subrelation_relRight.isWellFounded
 
-instance : ConcreteGame Domineering where
-  relLeft := relLeft
-  relRight := relRight
-  isWellFounded_rel := by
+instance : ConcreteIGame Domineering where
+  leftMoves x := {y | relLeft y x}
+  rightMoves x :=  {y | relRight y x}
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Specific/Domineering.lean:163]:
```suggestion
  rightMoves x := {y | relRight y x}
```

File: CombinatorialGames/Game/Concrete.lean [hunk 2]
```diff
@@ -3,108 +3,200 @@ Copyright (c) 2025 Violeta Hernández Palacios. All rights reserved.
...
+/-- A "concrete" game is a type of states endowed with well-founded move relations for the
+left and right players.
+
+This typeclass allows only for well-founded games, see `ConcreteLGame` for a typeclass allowing
+loopy games. -/
+class ConcreteIGame (α : Type v) extends ConcreteLGame.{u} α where
+  /-- The option relation in the game is well-founded. -/
+  isWellFounded_isOption : IsWellFounded α ConcreteGame.IsOption
+
+/-! ### Loopy games -/
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Concrete.lean]: This header should be moved down.

File: CombinatorialGames/Game/Concrete.lean [hunk 3]
```diff
@@ -3,108 +3,200 @@ Copyright (c) 2025 Violeta Hernández Palacios. All rights reserved.
...
+    · rintro ⟨_, ⟨x, hx, rfl⟩, rfl⟩
+      exact ⟨x, hx, (IHl _ hx).symm⟩
+    · rintro ⟨x, hx, rfl⟩
+      exact ⟨_, mem_image_of_mem _ hx, IHl _ hx⟩
+  · simp_rw [rightMoves_toLGame, mem_image, IGame.rightMoves_toLGame, rightMoves_toIGame]
+    constructor
+    · rintro ⟨_, ⟨x, hx, rfl⟩, rfl⟩
+      exact ⟨x, hx, (IHr _ hx).symm⟩
+    · rintro ⟨x, hx, rfl⟩
+      exact ⟨_, mem_image_of_mem _ hx, IHr _ hx⟩
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Concrete.lean]:
```suggestion
@[simp]
theorem toLGame_toIGame (a : α) : (toIGame a).toLGame = toLGame a := by
  apply moveRecOn a fun b IHl IHr ↦ ?_
  ext x
  on_goal 1 => set IH := IHl; rw [leftMoves_toLGame, IGame.leftMoves_toLGame, leftMoves_toIGame]
  on_goal 2 => set IH := IHr; rw [rightMoves_toLGame, IGame.rightMoves_toLGame, rightMoves_toIGame]
  all_goals
    constructor
    · rintro ⟨_, ⟨x, hx, rfl⟩, rfl⟩
      exact ⟨x, hx, (IH _ hx).symm⟩
    · rintro ⟨x, hx, rfl⟩
      exact ⟨_, mem_image_of_mem _ hx, IH _ hx⟩
```

File: CombinatorialGames/Game/Concrete.lean [hunk 4]
```diff
@@ -115,22 +207,38 @@ def ofImpartial : ToImpartial α ≃ α := Equiv.refl _
...
+theorem isOption_iff {x y : ToImpartial α} :
+    IsOption x y ↔ IsOption (ofImpartial x) (ofImpartial y) := or_self_iff
+
+end ConcreteLGame
+
+section ConcreteIGame
+variable [ConcreteIGame α]
+
+instance : ConcreteIGame (ToImpartial α) :=
+  @ConcreteIGame.ofImpartial _ _ _ <| ConcreteIGame.isWellFounded_isOption (α := α)
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Concrete.lean]:
```suggestion
  ConcreteIGame.ofImpartial (H := ConcreteIGame.isWellFounded_isOption (α := α))
```

File: CombinatorialGames/Game/Concrete.lean [hunk 5]
```diff
@@ -115,22 +207,38 @@ def ofImpartial : ToImpartial α ≃ α := Equiv.refl _
...
+namespace ToImpartial
+section ConcreteLGame
+variable [ConcreteLGame α]
 
-instance [ConcreteGame α] : ConcreteGame (ToImpartial α) where
-  relLeft x y := (ofImpartial x) ≺ₗ (ofImpartial y) ∨ (ofImpartial x) ≺ᵣ (ofImpartial y)
-  relRight x y := (ofImpartial x) ≺ₗ (ofImpartial y) ∨ (ofImpartial x) ≺ᵣ (ofImpartial y)
-  isWellFounded_rel := by simpa using ConcreteGame.isWellFounded_rel (α := α)
+instance : ConcreteLGame (ToImpartial α) :=
+  .ofImpartial (fun x ↦ {y | IsOption (ofImpartial y) (ofImpartial x)})
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Concrete.lean]:
```suggestion
  .ofImpartial fun x ↦ {y | IsOption (ofImpartial y) (ofImpartial x)}
```

**Review by tristan-f-r — APPROVED** [review]

File: CombinatorialGames/Game/Concrete.lean [hunk 6]
```diff
@@ -1,136 +1,201 @@
...
+
+When working with any "specific" game (nim, domineering, etc.) you can use  `ConcreteGame` to set up
+the basic theorems and definitions, but the intent is that you're not working with `ConcreteGame`
+directly most of the time.
+
+If you want to prove theorems about a particular game, you should organize your material as follows:
+
+- Any preliminaries about the game (definitions, structures, etc.) go in a namespace inside
+  `ConcreteGame`, e.g. `ConcreteGame.Poset`, `ConcreteGame.Domineering`, etc.
+- Theorems about the actual `IGame`s or `LGame`s should go in the corresponding namespace.
```
Comment (alreadydone) [inline CombinatorialGames/Game/Concrete.lean]: may need to be changed

File: CombinatorialGames/Game/Concrete.lean [hunk 7]
```diff
@@ -1,136 +1,201 @@
...
+appropriate game type. -/
+structure ConcreteGame (α : Type v) where
+  /-- The set of options for the left player. -/
+  leftMoves : α → Set α
+  /-- The set of options for the right player. -/
+  rightMoves : α → Set α
+  /-- To make a game in universe `u`, the set of left moves must be u-small. -/
+  small_leftMoves (a : α) : Small.{u} (leftMoves a) := by infer_instance
+  /-- To make a game in universe `u`, the set of left moves must be u-small. -/
+  small_rightMoves (a : α) : Small.{u} (rightMoves a) := by infer_instance
```
Comment (alreadydone) [inline CombinatorialGames/Game/Concrete.lean]: How about we exclude these in the structure and add them as instance arguments in `toIGame/toLGame`?

File: CombinatorialGames/Game/Specific/Domineering.lean [hunk 8]
```diff
@@ -143,14 +149,15 @@ theorem subrelation_relRight :
...
 end Domineering
+
 end IGame
+
+open IGame Domineering
+
+-- TODO: this should probably go much earlier in the file.
+
+/-- The game of domineering. -/
+def ConcreteGame.domineering : ConcreteGame Domineering where
```
Comment (alreadydone) [inline CombinatorialGames/Game/Specific/Domineering.lean:161]: I think we're supposed to remove type aliases?
```suggestion
def ConcreteGame.domineering : ConcreteGame (Finset (ℤ × ℤ)) where
```

**Review by alreadydone — COMMENTED** [review]
Looks pretty nice!

File: CombinatorialGames/Game/Concrete.lean (hunk 6 above)
Comment (vihdzp) [reply CombinatorialGames/Game/Concrete.lean]: Yep, that's why I turned this into a draft. Will update once I get back home.

File: CombinatorialGames/Game/Concrete.lean (hunk 7 above)
Comment (vihdzp) [reply CombinatorialGames/Game/Concrete.lean]: That's probably better; we can make `toIGame`/`toLGame` universe polymorphic, rather than the structure itself.

File: CombinatorialGames/Game/Specific/Domineering.lean (hunk 8 above)
Comment (vihdzp) [reply CombinatorialGames/Game/Specific/Domineering.lean:161]: We really should rewrite this entire file, but I'd prefer to do that in a follow-up.

File: CombinatorialGames/Game/Specific/Domineering.lean [hunk 9]
```diff
@@ -82,6 +86,8 @@ theorem moveRight_subset (b : Domineering) (m : ℤ × ℤ) :
     ofDomineering (b.moveRight m) ⊆ ofDomineering b :=
   (Finset.erase_subset _ _).trans (Finset.erase_subset _ _)
 
+-- TODO: these should be functions `Domineering → Finset Domineering` rather than relations.
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Specific/Domineering.lean:89]: (perhaps an auxiliary data-carrying `ConcreteGame` with `Finset`?)

**Review by tristan-f-r — APPROVED** [review]
I'm a decent fan of this! Usually, I would be all for type-aliasing, but since we're more likely to have mathematically nice games that are already present as structures in `Mathlib`, I'm a much bigger fan of using `structure`.

Moving `Small` (and wf for `IGame`) to instance variables over being inside the structure was nice as well. 👍
